US07635715B2
Step B: Preparation of Ethyl 1-benzyl-4-(2-ethynylphenyl)piperidine-4-carboxylate
To a solution of ethyl-1-benzyl-4-(2-(2-(triethylsilyl)ethynyl)phenyl)-piperidine-4-carboxylate (0.50 g, 1.1 mmol) and MeOH (10 mL), was added potassium t-butoxide (0.15 g, 1.3 mmol). The reaction mixture was heated at 40° C. for 15 hours. The reaction mixture was then concentrated in vacuo and loaded on a silica gel column and purified by Isco HPLC (0-50% EtOAc/hexane) to give the title compound as a viscous light yellow oil (0.22 g). MS m/e=348 (M+H)+.

reactant | ethyl-1-benzyl-4-(2-(2-(triethylsilyl)ethynyl)phenyl)-piperidine-4-carboxylate | 1.1 mmol, 0.50 g | C(C)OC(=O)C1(CCN(CC1)CC1=CC=CC=C1)C1=C(C=CC=C1)C#C[Si](CC)(CC)CC | C29H39NO2Si
reactant | potassium t-butoxide | 1.3 mmol, 0.15 g | CC(C)([O-])C.[K+]
solvent | MeOH | 10 mL | CO | CH4O
product | Ethyl 1-benzyl-4-(2-ethynylphenyl)piperidine-4-carboxylate | 0.22 g | C(C1=CC=CC=C1)N1CCC(CC1)(C(=O)OCC)C1=C(C=CC=C1)C#C | C23H25NO2
